### PR TITLE
feat: make `NewMarcinkiewiczZygmund` `sorry`-free

### PR DESCRIPTION
**Pull request by sqrt-of-2**
Note that this PR changes the definition of `marcinkiewiczZygmundConst`:

```diff
 /-- The constant appearing in the Marcinkiewicz-Zygmund inequality for random variables with zero
 mean. -/
 noncomputable def marcinkiewiczZygmundConst (p : ℝ≥0) : ℝ :=
-  2 ^ (p / 2 : ℝ) * marcinkiewiczZygmundSymmConst p
+  4 ^ (p / 2 : ℝ) * marcinkiewiczZygmundSymmConst p
```

Also, let me know if you think this introduced too many intermediate lemmas.

### CODE REVIEW

File: APAP/Prereqs/NewMarcinkiewiczZygmund.lean [hunk 1]
```diff
@@ -35,8 +40,9 @@ public section
 open Finset Fintype Function Nat MeasureTheory ProbabilityTheory Real
 open scoped NNReal ENNReal
 
+
 variable {ι Ω E : Type*} {A : Finset ι} {m n : ℕ} [MeasurableSpace Ω] {μ : Measure Ω}
```
Comment (YaelDillies) [inline APAP/Prereqs/NewMarcinkiewiczZygmund.lean]:
```suggestion
variable {ι Ω E : Type*} {A : Finset ι} {m n : ℕ} [MeasurableSpace Ω] {μ : Measure Ω}
```

File: APAP/Prereqs/NewMarcinkiewiczZygmund.lean [hunk 2]
```diff
@@ -45,156 +51,725 @@ local notation:70 A:70 " ^^ " n:71 => Fintype.piFinset fun _ : Fin n ↦ A
...
+        rw [← sum_add_distrib, mul_sum]
+        exact sum_le_sum fun i hi ↦ h_le i hi
+    _ = 2 ^ m * ((∑ i ∈ A, ‖X i ω.1‖ ^ 2) + ∑ i ∈ A, ‖X i ω.2‖ ^ 2) ^ m := mul_pow ..
+    _ ≤ 2 ^ m * (2 ^ (m - 1) *
+        ((∑ i ∈ A, ‖X i ω.1‖ ^ 2) ^ m + (∑ i ∈ A, ‖X i ω.2‖ ^ 2) ^ m)) := by
+        gcongr
+        exact add_pow_le (by positivity) (by positivity) m
+    _ = 2 ^ (2 * m - 1) * ((∑ i ∈ A, ‖X i ω.1‖ ^ 2) ^ m + (∑ i ∈ A, ‖X i ω.2‖ ^ 2) ^ m) := by
+      rw [← mul_assoc, ← pow_add]
+      grind
```
Comment (YaelDillies) [inline APAP/Prereqs/NewMarcinkiewiczZygmund.lean]: This is generally useful. Could you move this to a new `Prereqs.Symmetrize` file?

**Review by YaelDillies — COMMENTED** [review]
For each intermediate lemma, you should ask yourself "Can/will this be reused anywhere else?". If the answer is "No", you might as well inline the lemma. In particular, any intermediate lemma mentioning `marcinkiewiczConst` is unlikely to ever be reused

File: APAP/Prereqs/Symmetrize.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
+module
```
Comment (YaelDillies) [inline APAP/Prereqs/Symmetrize.lean:6]: Please claim the copyright 😉

File: APAP/Prereqs/Symmetrize.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+open Finset Fintype Function Nat MeasureTheory ProbabilityTheory Real
+open scoped NNReal ENNReal
+
+@[expose] public section
+
+variable {ι Ω E : Type*} {A : Finset ι} {m : ℕ} [MeasurableSpace Ω] {μ : Measure Ω}
+  [IsFiniteMeasure μ] [MeasurableSpace E] [NormedAddCommGroup E] [InnerProductSpace ℝ E]
+  {X : ι → Ω → E}
+
+def symmetrize [DecidableEq ι] (A : Finset ι) (X : ι → Ω → E) (i : ι) : Ω × Ω → E :=
```
Comment (YaelDillies) [inline APAP/Prereqs/Symmetrize.lean]: Can we add a module doc here?

File: APAP/Prereqs/Symmetrize.lean [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+  if i ∈ A then (X i ∘ Prod.fst - X i ∘ Prod.snd) else 0
```
Comment (YaelDillies) [inline APAP/Prereqs/Symmetrize.lean]:
```suggestion
def symmetrize (X : Ω → E) : Ω × Ω → E := X i ∘ Prod.fst - X i ∘ Prod.snd
```
feels more fundamental. Can you use that instead?

File: APAP/Prereqs/Symmetrize.lean [hunk 6]
```diff
@@ -0,0 +1,129 @@
...
+  X ∘ Prod.fst - X ∘ Prod.snd
+
+omit [InnerProductSpace ℝ E] [MeasurableSpace E] in
+lemma memLp_symmetrize [IsProbabilityMeasure μ] {Y : Ω → E} (h_lp : MemLp Y (2 * m) μ) :
+    MemLp (symmetrize Y) (2 * m) (μ.prod μ) := by
+  simp only [symmetrize]
+  exact (h_lp.comp_measurePreserving measurePreserving_fst).sub
+    (h_lp.comp_measurePreserving measurePreserving_snd)
+
+omit [MeasurableSpace Ω] [IsFiniteMeasure μ] [MeasurableSpace E] [InnerProductSpace ℝ E] in
```
Comment (YaelDillies) [inline APAP/Prereqs/Symmetrize.lean:42]: You have a lot of `omit`s in this file. Can you reorder your lemmas so that you have fewer/none of them?

File: APAP/Prereqs/Symmetrize.lean [hunk 7]
```diff
@@ -0,0 +1,129 @@
...
+  [IsFiniteMeasure μ] [MeasurableSpace E] [NormedAddCommGroup E] [InnerProductSpace ℝ E]
+  {X : ι → Ω → E}
+
+/-- Symmetrization of a random variable `X` on `Ω × Ω`. -/
+def symmetrize (X : Ω → E) : Ω × Ω → E :=
+  X ∘ Prod.fst - X ∘ Prod.snd
+
+omit [InnerProductSpace ℝ E] [MeasurableSpace E] in
+lemma memLp_symmetrize [IsProbabilityMeasure μ] {Y : Ω → E} (h_lp : MemLp Y (2 * m) μ) :
+    MemLp (symmetrize Y) (2 * m) (μ.prod μ) := by
```
Comment (YaelDillies) [inline APAP/Prereqs/Symmetrize.lean:37]: You can replace `2 * m` by an arbitrary variable
